US06426345B1
To a stirred suspension of 2-(2-carboxyethyl)-3-oxo-4-[3-[3-(2-methoxyphenyl)ureido]phenyl]-3,4-dihydropyrido[2,3-b]pyrazine (115 mg) and 1-hydroxybenzotriazole (40 mg) in dry dioxane (10 ml) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (47 mg) and N-methylpiperazine (30 mg). The mixture was stirred at room temperature for 4 hours, diluted with ethyl acetate, washed with water. After evaporation of the solvents, crude residue was crystallized from ethanol to give 4-[3-[3-(2-methoxyphenyl)ureido]phenyl]-2-[2-(4-methylpiperazin-1-yl)carbonylethyl]-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine.

reactant | 2-(2-carboxyethyl)-3-oxo-4-[3-[3-(2-methoxyphenyl)ureido]phenyl]-3,4-dihydropyrido[2,3-b]pyrazine | 115 mg | C(=O)(O)CCC1=NC2=C(N(C1=O)C1=CC(=CC=C1)NC(=O)NC1=C(C=CC=C1)OC)N=CC=C2 | C24H21N5O5
reactant | 1-hydroxybenzotriazole | 40 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 47 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | N-methylpiperazine | 30 mg | CN1CCNCC1 | C5H12N2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[3-[3-(2-methoxyphenyl)ureido]phenyl]-2-[2-(4-methylpiperazin-1-yl)carbonylethyl]-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | COC1=C(C=CC=C1)NC(NC=1C=C(C=CC1)N1C2=C(N=C(C1=O)CCC(=O)N1CCN(CC1)C)C=CC=N2)=O | C29H31N7O4
